US08357693B2
To tert-butyl 5-(2-(3-(2-methoxyacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (95 mg, 0.18 mmol) was added a solution of 1:1 TFA:CH2Cl2 (2 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the residue was triturated with ethyl ether to get a yellow solid. Product was purified using prep HPLC (method 25-50—70 mins) to afford 2-methoxyacetyl chloride N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-2-methoxyacetamide. (45 mg, 59%)

reactant | tert-butyl 5-(2-(3-(2-methoxyacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.18 mmol, 95 mg | COCC(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C29H28N6O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxyacetyl chloride N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-2-methoxyacetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(C=CC1)NC(COC)=O.COCC(=O)Cl | InChI=1S/C24H20N6O2.C3H5ClO2/c1-32-14-22(31)26-17-6-4-5-15(11-17)23-28-21-8-3-2-7-19(21)24(29-23)27-18-9-10-20-16(12-18)13-25-30-20;1-6-2-3(4)5/h2-13H,14H2,1H3,(H,25,30)(H,26,31)(H,27,28,29);2H2,1H3
